US06022884
EXAMPLE 8 Preparation of 2-Amino-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-benzamide
N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-2-nitro-benzamide (301 mg, 0.7 mmol) was dissolved in 95% ethanol (4 mL) and treated with 20% palladium hydroxide on carbon (Pearlman's catalyst, 50 mg) and subjected to a hydrogen atmosphere (40 psi) for 2 hours. The catalyst was removed by filtration and the solvents were removed in vacuo. The product was purified by chromatography on SiO2 using 1:1 ethyl acetate/hexanes as eluent. MS (m/z) 353/355 (M+H)+ ; C19H16N3O2Cl requires 353.8.

reactant | N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-2-nitro-benzamide | 0.7 mmol, 301 mg | ClC1=CC(=C(OC2=CC=C(C=N2)NC(C2=C(C=CC=C2)[N+](=O)[O-])=O)C=C1)C | C19H14ClN3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 50 mg | [OH-].[OH-].[Pd+2]
product | 2-Amino-N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-benzamide | NC1=C(C(=O)NC=2C=NC(=CC2)OC2=C(C=C(C=C2)Cl)C)C=CC=C1 | C19H16ClN3O2
